US06225310B1
a) N-(3-Amino-5-chloro-2-thienylsulfonyl)-N′-(2-methylbutyl)thiourea
The title compound was prepared from 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride and 2-methylbutyl isothiocyanate by a procedure analogous to the procedure described in example 3-a (yield 28%); mp 116.5-118° C., 1H-NMR (DMSO-d6): δ0.8 (2 d, 6H, 2×CH3), 1.10 (m, 1H), 1.30 (m, 1H), 1.65 (m, 1H), 3.40 (m, 2H+HDO, CH2), 6.45 (br, 2H, NH2), 6.65 (s, 1H, H-4), 8.25 (br t, 1H, NH), 11.3 (br s, 1H).

reactant | 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride | Cl.NC1=C(SC(=C1)Cl)S(=O)(=O)N
reactant | 2-methylbutyl isothiocyanate | CC(CN=C=S)CC | C6H11NS
product | N-(3-Amino-5-chloro-2-thienylsulfonyl)-N′-(2-methylbutyl)thiourea | NC1=C(SC(=C1)Cl)S(=O)(=O)NC(=S)NCC(CC)C | C10H16ClN3O2S3
